Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
mechanical fall with R 3, 5, 10th rib fractures
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI:  
___ with a PMHx significant for osteoporosis presents as a
transfer from OSH with several right sided rib fractures after a
mechanical fall. Ms. ___ is dog-sitting for a family friend
and did not notice the dog in the kitchen. She tripped over it
and fell, hitting the edge of the counter against the right side
of her torso. She denies head strike or LOC. After the incident
she noticed that she had severe pain when taking a deep breath
and was brought by ambulance to an ___ where she was
found to have several right sided rib fxs without hemothorax or
pneymothorax. She denies headache, fever, chills, nausea,
vomiting, diarrhea, abdominal pain, back pain. 
 
Past Medical History:
Past Medical History:  
Migraines
Trigeminal neuralgia
Medullary sponge kidney
Nephrolithiasis. s/p several cystoscopies, laser lithotripsy 
Osteoporosis
Allergic rhinitis
GERD
Hypercholesterolemia
Probable cholelithiasis
Actinic keratosis

Past Surgical History:  
Colon polypectomy (___)
several cystoscopies, laser lithotripsy (___)
C/s
Tubal ligation
Polypectomy
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Admission Physical Exam:  
Vitals:  97.5 68 127/86 18 96% RA
GEN: A&O
HEENT: No scleral icterus. No tenderness to palpation in the 
head
and face.
CV: RRR, No M/R/G
PULM: Clear to auscultation b/l anteriorly. Tender to palpation
on the right mid-axillary line with mild tenderness on the chest
anteriorly
ABD: Soft, nondistended, nontender, no rebound or guarding
Ext: ___ warm and well perfused  
Neuro: Alert, conversant, oriented. 5+ strength in upper and
lower extremities bilaterally

Discharge Physical Exam:
Vitals – T 98.6 / HR 63 / BP 115/72 / RR 18 / O2sat 94%RA
General – NAD, comfortable
HEENT – normocephalic/atraumatic, PERRLA/EOMI, moist mucous 
membranes
Neck – full ROM
Cardiac – RRR, no M/R/G
Chest – CTAB, mild TTP right chest wall
Abdomen – soft, NT, ND, normoactive bowel sounds
Extremities – warm and well-perfused, no edema, 2+ DPs 
bilaterally
Neuro – A&OX3, sensorimotor function intact in all 4 extremities

 
Pertinent Results:
Lab Results:
___ 07:30AM BLOOD WBC-5.2 RBC-4.44 Hgb-13.4 Hct-39.4 MCV-89 
MCH-30.2 MCHC-34.0 RDW-13.4 RDWSD-43.6 Plt ___
___ 07:30AM BLOOD Glucose-92 UreaN-13 Creat-0.8 Na-137 
K-3.4 Cl-97 HCO3-27 AnGap-16

Imaging Results:
OSH CXR - Right 3, 5, 10th rib fractures

OSH CT chest - Right 3, 5, 10th rib fractures
 
Brief Hospital Course:
___ PMHx of osteoporosis who was admitted to the Acute Care 
Surgery Service for observation after mechanical fall resulting 
in rib fractures. Patient tripped over dog and was transferred 
from OSH with right 3, 5, 10th rib fractures without 
pneumothorax or hemothorax. The patient's pain was 
well-controlled with tylenol and tramadol. Incentive spirometry 
and early ambulation were encouraged, the patient was breathing 
well on room air. Tertiary exam was performed and no new 
injuries were identified. The patient worked with Physical 
therapy, which cleared the patient for home with outpatient 
physical therapy. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. aMILoride 5 mg PO DAILY 
2. Atorvastatin 20 mg PO QPM 
3. Hydrochlorothiazide 50 mg PO DAILY 
4. FLUoxetine 20 mg PO DAILY 
5. OXcarbazepine 75 mg PO BID 
6. Omeprazole 20 mg PO DAILY 
7. Ranitidine 150 mg PO BID 
8. Potassium Chloride 20 mEq PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every 6 hours Disp 
#*80 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [Miralax] 17 gram 1 powder(s) by 
mouth daily Disp #*24 Packet Refills:*0 
4.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*30 Tablet Refills:*0 
5.  TraMADol 50 mg PO Q4H:PRN pain 
RX *tramadol [Ultram] 50 mg 1 tablet(s) by mouth every 4 hours 
Disp #*45 Tablet Refills:*0 
6.  aMILoride 5 mg PO DAILY  
7.  Atorvastatin 20 mg PO QPM  
8.  FLUoxetine 20 mg PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  OXcarbazepine 75 mg PO BID  
11.  Potassium Chloride 20 mEq PO DAILY 
Hold for K >  
12.  Ranitidine 150 mg PO BID  
13. HELD- Hydrochlorothiazide 50 mg PO DAILY  This medication 
was held. Do not restart Hydrochlorothiazide until you see your 
PCP
14.Outpatient Physical Therapy
Outpatient Physical Therapy after mechanical fall with rib 
fractures

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Mechanical fall
Right 3, 5, 10th rib fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you here at ___. You were 
admitted for observation after a mechanical fall resulting in 
rib fractures. Your pain was well-controlled with tylenol and 
tramadol. Incentive spirometry and early ambulation were 
encouraged, and you are breathing well on room air. You worked 
with Physical therapy, which cleared you for home with 
outpatient physical therapy. You are now ready for discharge 
home with pain medications and clinic follow-up. Please follow 
the below instructions for a safe and speedy recovery.

Rib Fractures:

* Your injury caused right-sided 3, 5, 10th rib fractures which 
can cause severe pain and subsequently cause you to take shallow 
breaths because of the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___